US07732473B2
1-Benzyl-tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione
A solution of tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione (0.5 g, 3.5 mmol, prepared as described in J. Med. Chem. 36, 4214, 1994), BEMP (2 ml, 7 mmol) and benzylbromide (0.6 ml, 5 mmol) in CH3CN (20 ml) was refluxed for 1 hour. The reaction mixture was concentrated to dryness; the residue was then re-dissolved in ethyl acetate and washed with a saturated solution of NaCl, dried over Na2SO4, filtered and evaporated under vacuum. The residue was purified by flash chromatography over silica gel (CH2Cl2/MeOH/NH4OH 95/5/0.5) to afford 0.7 g of the title compound as yellow oil.

reactant | tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione | 3.5 mmol, 0.5 g | N1C2N(CC1=O)C(CC2)=O | C6H8N2O2
reactant | BEMP | 7 mmol, 2 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | benzylbromide | 5 mmol, 0.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 1-Benzyl-tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione | 0.7 g, Yield: 87% | C(C1=CC=CC=C1)N1C2N(CC1=O)C(CC2)=O | C13H14N2O2
